US07678820B2
To a solution of 4-fluoro-3-nitrobenzonitrile (300 mg) and dimethyl malonate (286 mg) in DMF was added 60% NaH at 0° C., followed by reaction at room temperature to obtain dimethyl (4-cyano-2-nitrophenyl)malonate (198 mg).

reactant | 4-fluoro-3-nitrobenzonitrile | 300 mg | FC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | dimethyl malonate | 286 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | NaH | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | dimethyl (4-cyano-2-nitrophenyl)malonate | 198 mg | C(#N)C1=CC(=C(C=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C12H10N2O6
